US07863300B2
5-{4-[2-(5-Ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzylidene}-2,4-thiazolidine dione (13, X═OTs)
To 1 g (0.0023 mol) 4-[2-(5-ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzaldehyde dissolved in 15 mL toluene was added 0.27 g (0.0023 mol) thiazolidin-2,4-dione. To this 0.21 g (0.0035 mol) acetic acid and 0.3 g (0.0035 mol) piperidine were added, Reaction mixture was refluxed at 120-130° C. for 4 hr. After completion of reaction on TLC, substantial work-up gave the titled product. Yield of the product was 0.36 g (30%).

reactant | 4-[2-(5-ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzaldehyde | 0.0023 mol, 1 g | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C23H23NO4S
reactant | thiazolidin-2,4-dione | 0.0023 mol, 0.27 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | acetic acid | 0.0035 mol, 0.21 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.0035 mol, 0.3 g | N1CCCCC1 | C5H11N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[2-(5-Ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzylidene}-2,4-thiazolidine dione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C26H24N2O5S2
